US08008307B2
Step f: (4aS 6R,7aS)-2-(4-Methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-amine
A mixture of 2-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-1H-isoindole-1,3(2H)-dione (390. mg, 1.03 mmol), EtOH (11.3 mL) and hydrazine (0.0362 mL, 1.13 mmol) was stirred at 90° C. for 18 h. The resulting mixture was purified via silica gel chromatography eluting with a gradient of 10 to 50% MeOH in DCM. LC/MS: Rt=1.08 min, ES− 250. (AA standard).

reactant | 2-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-1H-isoindole-1,3(2H)-dione | 1.03 mmol | COC1=CC=C(C=C1)C1OC[C@H]2[C@@H](O1)C[C@@H](C2)N2C(C1=CC=CC=C1C2=O)=O | C22H21NO5
reactant | hydrazine | 1.13 mmol, 0.0362 mL | NN | H4N2
solvent | EtOH | 11.3 mL | CCO | C2H6O
product | (4aS 6R,7aS)-2-(4-Methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-amine | COC1=CC=C(C=C1)C1OC[C@H]2[C@@H](O1)C[C@@H](C2)N | C14H19NO3
